US07476759B2
Methyl [4-(isopentyloxy)phenyl]acetate
Methyl-4-hydroxyphenylacetate (2.00 g, 12.0 mmol) was added in one portion to a stirred suspension of sodium hydride (60% mineral oil suspension; 528 mg, 13.2 mmol) in dimethylformamide (20 mL) at room temperature under nitrogen. After stirring for 30 min 1-bromo-3-methylbutane (1.99 g, 1.58 mL, 13.2 mmol) was added dropwise over 5 min then stirring was continued for 12 h. The volatiles were evaporated then the residue partitioned between dichloromethane (50 mL) and water (50 mL). The phases were separated and the aqueous phase was washed with dichloromethane (2×50 mL). The organics were combined, dried (magnesium sulfate) and the solvent evaporated. The residue was chromatographed on silica gel (20% diethyl ether: cyclohexane) to give the title compound as a colourless oil (2.16 g, 76%). LC/MS: 3.51 min; z/e 254, calcd (M+18) 254. 1H NMR (400 MHz: CDCl3): 7.15 (2H), 6.85 (2H), 4.00 (2H), 3.70 (3H), 3.55 (2H), 1.85 (1H), 1.70 (2H), 0.95 (6H).

reactant | Methyl-4-hydroxyphenylacetate | 12.0 mmol, 2.00 g | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
reactant | sodium hydride | 13.2 mmol, 528 mg | [H-].[Na+]
reactant | 1-bromo-3-methylbutane | 13.2 mmol, 1.58 mL, 1.99 g | BrCCC(C)C | C5H11Br
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl [4-(isopentyloxy)phenyl]acetate | 2.16 g, 76% | C(CC(C)C)OC1=CC=C(C=C1)CC(=O)OC | C14H20O3
